2162-07-25 07:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: syncope, wide-complex tachycardia
   24 Hour Events:
   Syncopal episode, v-tach s/p DCCV. See admission note for details.
   Patient had moderate anxiety throughout night, no shortness of breath,
   no CP, has been NPO p MN. Had sensation of syncopal episode several
   times, which he attributes to anxiety.
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-7-25**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.2
   HR: 54 (53 - 121) bpm
   BP: 141/90(101) {118/83(93) - 174/111(127)} mmHg
   RR: 13 (10 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 102 kg (admission): 102 kg
             Total In:
                                                                    628 mL
                                                                    738 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                    508 mL
                                                                    738 mL
   Blood products:
   Total out:
                                                                    375 mL
                                                                    625 mL
   Urine:
                                                                    375 mL
                                                                    625 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    253 mL
                                                                    113 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, no JVD noted, MMM
   CVS: RRR, S1 and S2 present, no S3 or S4, no murmurs/rubs, PMI not
   englarged or displaced
   Respiratory / Chest: (Breath Sounds: Clear : )
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: 2+), (Left DP pulse: 2+)
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   208 K/uL
   14.8 g/dL
   131 mg/dL
   1.2 mg/dL
   26 mEq/L
   4.3 mEq/L
   18 mg/dL
   106 mEq/L
   140 mEq/L
   45.3 %
   9.5 K/uL
        [image002.jpg]
                             [**2162-7-24**]  11:20 PM
                             [**2162-7-25**]  01:45 AM
   WBC
   9.5
   Hct
   45.3
   Plt
   208
   Cr
   1.2
   TropT
   0.18
   0.12
   Glucose
   131
   Other labs: CK / CKMB / Troponin-T:146/5/0.12, Ca++:9.0 mg/dL, Mg++:2.1
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   64 y/o gentleman with no prior cardiac hx, presenting with syncope
   secondary to wide-complex tachycardia recorded on KOH and EMS strip.
   Another episode on arrival to CCU s/p DCCV.
   .
   # RHYTHM: Symptomatic wide-complex tachycardia concerning for
   monomorphic ventricular tachycardia.  ? related to sympathetic drive.
   Etiology of v-tach could also be secondary to ischemia given his age.
   However recent TTE on [**2162-7-19**] without focal WMA.  History not c/w
   cardiac ischemia.  However his trop was mildly elevated to 0.12 with
   flat CKs.  This could be secondary to Vtach itself in the setting of
   CKD.  No evidence of channelopathies on EKG.
   - Continue metoprolol 50 mg [**Hospital1 **]
   - Amiodarone bolus with gtt, 300 mg IV bolus
   - Appreciate EP recommendations
   - ? need for cardiac catheterization prior to EP study, will d/w EP
   team in AM
   - Will keep on cardiac monitor
   - Repeat EKG in AM
   .
   # CORONARIES: No known CAD (total chol 217, LDL 146 in [**12-28**]).
   Troponin-T elevated at 0.12 as above.
   - ASA 325 daily
   - ? diagnostic cath as above
   - will cycle troponins q6h, however expect mild elevation post DCCV
   - continue metoprolol 50 [**Hospital1 **]
   .
   # PUMP: No evidence of heart failure on history and exam.  Normal
   systolic function on last echo on [**2162-7-19**] (LVEF>55%).
   - monitor I and O, daily weights
   .
   # HYPERTENSION: hypertensive vs. pre-hypertensive, not on medication
   - Continue metoprolol 50 [**Hospital1 **]
   .
   # CHRONIC RENAL INSUFFICIENCY: creatinine slightly elevated at 1.4 from
   baseline of 1.2. CKD may be secondary to hypertension with acute
   component of mild dehydration.
   - Trend renal function
   - avoid nephrotoxins/ renally dose meds
   - IV fluid hydration @ 100 mL/hr for now
   .
   FEN:  NPO p MN for possible procedures in AM
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with SCD's
   .
   CODE: Full Code
   .
   COMM:  Wife [**Name (NI) 8106**] cell [**Telephone/Fax (1) 8107**], home [**Telephone/Fax (1) 8108**], [**Doctor First Name 8109**] [**Telephone/Fax (1) 8110**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2162-7-24**] 08:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2162-07-26 06:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**2162-7-25**]: Ativan 0.5 prn. Metoprolol 25 po tid. Heparin ppx. Amiodarone
   d/c per EP recs. Will start Lidocaine gtt as needed if Pt w/ VT. @5pm
   episode of chest fluttering with mild pain radiating to left arm. EKG
   NSR long QT otherwise unchanged from admission. Pt stable overnight,
   likely call out to floor in AM.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-7-26**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.3
C (97.3
   HR: 59 (54 - 67) bpm
   BP: 123/78(89) {97/65(77) - 147/96(107)} mmHg
   RR: 14 (12 - 16) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 102 kg (admission): 102 kg
                  Total In:
                                                                  1,058 mL
                  PO:
                                                                    240 mL
                  TF:
   IVF:
                                                                    818 mL
   Blood products:
   Total out:
                                                                  2,225 mL
                                                                    600 mL
   Urine:
                                                                  2,225 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,167 mL
                                                                   -600 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   227 K/uL
   15.3 g/dL
   131 mg/dL
   1.2 mg/dL
   26 mEq/L
   4.3 mEq/L
   18 mg/dL
   106 mEq/L
   140 mEq/L
   47.0 %
   9.2 K/uL
        [image002.jpg]
                             [**2162-7-24**]  11:20 PM
                             [**2162-7-25**]  01:45 AM
                             [**2162-7-26**]  05:34 AM
   WBC
   9.5
   9.2
   Hct
   45.3
   47.0
   Plt
   208
   227
   Cr
   1.2
   TropT
   0.18
   0.12
   Glucose
   131
   Other labs: CK / CKMB / Troponin-T:146/5/0.12, Ca++:9.0 mg/dL, Mg++:2.1
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   Assessment and Plan
   64 y/o gentleman with no prior cardiac hx, presenting with syncope
   secondary to wide-complex tachycardia recorded on KOH and EMS strip.
   Another episode on arrival to CCU s/p DCCV.
   .
   # RHYTHM: Symptomatic wide-complex tachycardia concerning for
   monomorphic ventricular tachycardia.  ? related to sympathetic drive.
   Etiology of v-tach could also be secondary to ischemia given his age.
   However recent TTE on [**2162-7-19**] without focal WMA.  History not c/w
   cardiac ischemia.  However his trop was mildly elevated to 0.12 with
   flat CKs.  This could be secondary to Vtach itself in the setting of
   CKD.  No evidence of channelopathies on EKG.
   - Continue metoprolol 50 mg [**Hospital1 **]
   - Amiodarone bolus with gtt, 300 mg IV bolus
   - Appreciate EP recommendations
   - ? need for cardiac catheterization prior to EP study, will d/w EP
   team in AM
   - Will keep on cardiac monitor
   - Repeat EKG in AM
   .
   # CORONARIES: No known CAD (total chol 217, LDL 146 in [**12-28**]).
   Troponin-T elevated at 0.12 as above.
   - ASA 325 daily
   - ? diagnostic cath as above
   - will cycle troponins q6h, however expect mild elevation post DCCV
   - continue metoprolol 50 [**Hospital1 **]
   .
   # PUMP: No evidence of heart failure on history and exam.  Normal
   systolic function on last echo on [**2162-7-19**] (LVEF>55%).
   - monitor I and O, daily weights
   .
   # HYPERTENSION: hypertensive vs. pre-hypertensive, not on medication
   - Continue metoprolol 50 [**Hospital1 **]
   .
   # CHRONIC RENAL INSUFFICIENCY: creatinine slightly elevated at 1.4 from
   baseline of 1.2. CKD may be secondary to hypertension with acute
   component of mild dehydration.
   - Trend renal function
   - avoid nephrotoxins/ renally dose meds
   - IV fluid hydration @ 100 mL/hr for now
   .
   FEN:  NPO p MN for possible procedures in AM
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with SCD's
   .
   CODE: Full Code
   .
   COMM:  Wife [**Name (NI) 8106**] cell [**Telephone/Fax (1) 8107**], home [**Telephone/Fax (1) 8108**], [**Doctor First Name 8109**] [**Telephone/Fax (1) 8110**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2162-7-24**] 08:20 PM
   20 Gauge - [**2162-7-25**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2162-07-27 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2162-7-26**]:  Updated family and pt on plan.  No recurrence of wide VT on
   tele.  Pt rested comfortably all day/night.  On B blockade.
   This AM, patient denies any CP, palpitations, dizziness, HA, SOB or
   other issues.  No events on telemetry o/n.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2162-7-26**] 10:06 AM
   Heparin Sodium (Prophylaxis) - [**2162-7-26**] 10:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-7-27**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (96.9
   HR: 75 (56 - 75) bpm
   BP: 129/82(93) {104/51(64) - 138/84(96)} mmHg
   RR: 18 (11 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.6 kg (admission): 102 kg
                  Total In:
                                                                  1,360 mL
                  PO:
                                                                    360 mL
                  TF:
   IVF:
                                                                  1,000 mL
   Blood products:
   Total out:
                                                                  1,800 mL
                                                                    975 mL
   Urine:
                                                                  1,800 mL
                                                                    975 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -440 mL
                                                                   -975 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No murmurs, rubs or gallops
   appreciated
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   minimal, at bases b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x 3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   213 K/uL
   15.7 g/dL
   129 mg/dL
   1.3 mg/dL
   27 mEq/L
   4.1 mEq/L
   17 mg/dL
   105 mEq/L
   140 mEq/L
   46.0 %
   7.0 K/uL
        [image002.jpg]
                             [**2162-7-24**]  11:20 PM
                             [**2162-7-25**]  01:45 AM
                             [**2162-7-26**]  05:34 AM
                             [**2162-7-27**]  05:24 AM
   WBC
   9.5
   9.2
   7.0
   Hct
   45.3
   47.0
   46.0
   Plt
   [**Telephone/Fax (3) 8157**]
   Cr
   1.2
   1.5
   1.3
   TropT
   0.18
   0.12
   Glucose
   131
   124
   129
   Other labs: PT / PTT / INR:12.6/26.8/1.1, CK / CKMB /
   Troponin-T:146/5/0.12, Ca++:9.2 mg/dL, Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   Assessment and Plan
   64 y/o gentleman with no prior cardiac hx, presenting with syncope
   secondary to wide-complex tachycardia recorded on KOH and EMS strip.
   Another episode on arrival to CCU s/p DCCV.
   .
   # RHYTHM: Symptomatic wide-complex tachycardia concerning for
   monomorphic ventricular tachycardia.  ? related to sympathetic drive.
   Etiology of v-tach could also be secondary to ischemia given his age.
   However recent TTE on [**2162-7-19**] without focal WMA.  History not c/w
   cardiac ischemia.  However his trop was mildly elevated to 0.12 with
   flat CKs.  This could be secondary to Vtach itself in the setting of
   CKD.  No evidence of channelopathies on EKG.
   - Continue metoprolol 25mg TID
   - Amiodarone d/c
   - Will use lidocaine GTT if PT w/ new episodes of sustained VT
   - Appreciate EP recommendations
   - Can consider ischemic w/u after EP study
   - Will keep on cardiac monitor
   -NPO for EP ablation procedure today
   .
   # CORONARIES: No known CAD (total chol 217, LDL 146 in [**12-28**]).
   Troponin-T elevated at 0.12 as above.
   - ASA 81 daily
   - will cycle troponins q6h, however expect mild elevation post DCCV
   - continue metoprolol 25 TID
   - Cardiac MRI prior to DC from hospital
   .
   # PUMP: No evidence of heart failure on history and exam.  Normal
   systolic function on last echo on [**2162-7-19**] (LVEF>55%).
   - monitor I and O, daily weights
   .
   # HYPERTENSION: hypertensive vs. pre-hypertensive, not on medication
   - Continue metoprolol 25 tid
   .
   # CHRONIC RENAL INSUFFICIENCY: creatinine slightly elevated at 1.5 from
   baseline of 1.2. CKD may be secondary to hypertension with acute
   component of mild dehydration.
   - Trend renal function
   - avoid nephrotoxins/ renally dose meds
   .
   FEN:  regular, cardiac diet
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with SCD's
   .
   CODE: Full Code
   .
   COMM:  Wife [**Name (NI) 8106**] cell [**Telephone/Fax (1) 8107**], home [**Telephone/Fax (1) 8108**], [**Doctor First Name 8109**] [**Telephone/Fax (1) 8110**]
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2162-7-24**] 08:20 PM
   20 Gauge - [**2162-7-25**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   per housestaff
   nothing to add
   Physical Examination
   per housestaff
   nothing to add
   Medical Decision Making
   per housetstaff
   see addendum
   Above discussed extensively with patient.
   Total time spent on patient care: 60 minutes.
   Additional comments:
   eps showed multiple non tolerated VTs - induced with unaggressive
   stimulation
   Will proceed with MRI of heart
   Start sotalol 80 [**Hospital1 **] and titrate up to 120 [**Hospital1 **] over next 48 hours
   ICD implantation later in week
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 1584**]
   on:[**2162-7-27**] 11:00 ------

2162-07-28 07:26:00 Physician Resident Progress Note
Chief Complaint: syncope, wide-complex tachycardia
   24 Hour Events:
 CARDIAC CATH - At [**2162-7-27**] 08:30 AM
   EP ablation yesterday -> brief episode of VT, unresponsive with
   seizure-like activity for ~30 sec, received two shocks, returned to
   sinus rhythm, and easily reoriented
 EKG - At [**2162-7-27**] 08:30 PM, 10:45 PM -> no evidence of QT
   prolongation
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2162-7-27**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2162-7-27**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   no complaints
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, Nausea, No(t) Emesis, No(t)
   Diarrhea, post-procedure yesterday
   Neurologic: No(t) Numbness / tingling, No(t) Headache
   Psychiatric / Sleep: No(t) Agitated
   Flowsheet Data as of  [**2162-7-28**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.4
C (97.6
   HR: 59 (54 - 67) bpm
   BP: 131/76(89) {96/51(61) - 147/95(105)} mmHg
   RR: 16 (8 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 101.4 kg (admission): 102 kg
                  Total In:
                                                                  1,760 mL
                  PO:
                                                                    760 mL
                  TF:
   IVF:
                                                                  1,000 mL
   Blood products:
   Total out:
                                                                  2,775 mL
                                                                    850 mL
   Urine:
                                                                  2,775 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,015 mL
                                                                   -850 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   239 K/uL
   14.6 g/dL
   135 mg/dL
   1.3 mg/dL
   29 mEq/L
   4.2 mEq/L
   15 mg/dL
   105 mEq/L
   142 mEq/L
   44.1 %
   8.8 K/uL
        [image002.jpg]
                             [**2162-7-24**]  11:20 PM
                             [**2162-7-25**]  01:45 AM
                             [**2162-7-26**]  05:34 AM
                             [**2162-7-27**]  05:24 AM
                             [**2162-7-28**]  05:46 AM
   WBC
   9.5
   9.2
   7.0
   8.8
   Hct
   45.3
   47.0
   46.0
   44.1
   Plt
   [**Telephone/Fax (3) 8167**]39
   Cr
   1.2
   1.5
   1.3
   1.3
   TropT
   0.18
   0.12
   Glucose
   131
   124
   129
   135
   Other labs: PT / PTT / INR:12.6/26.8/1.1, CK / CKMB /
   Troponin-T:146/5/0.12, Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   64 y/o gentleman with no prior cardiac hx, presenting with syncope
   secondary to wide-complex tachycardia recorded on KOH and EMS strip.
   Another episode on arrival to CCU s/p DCCV.
   .
   # RHYTHM: Symptomatic wide-complex tachycardia concerning for
   monomorphic ventricular tachycardia.  ? related to sympathetic drive.
   Etiology of v-tach could also be secondary to ischemia given his age.
   However recent TTE on [**2162-7-19**] without focal WMA.  History not c/w
   cardiac ischemia.  However his trop was mildly elevated to 0.12 with
   flat CKs.  This could be secondary to Vtach itself in the setting of
   CKD.  No evidence of channelopathies on EKG.   Pt now s/p unsuccessful
   EP ablation, possible epicardial focus of VT.
   - Will use lidocaine GTT if PT w/ new episodes of sustained VT
   - Appreciate EP recommendations
   - Can consider ischemic w/u after EP study
   - Will keep on cardiac monitor
   - will continue sotalol 80 mg PO BID, uptitrate to 120 mg PO BID at
   discharge, check ECG after each dose for QT prolongation
   - Cardiac MRI this morning, will pre-medicate with valium/ativan, pt
   anxious/clostrophobic
   - plan for ICD placement tomorrow
   .
   # CORONARIES: No known CAD (total chol 217, LDL 146 in [**12-28**]).
   Troponin-T elevated at 0.12 as above.
   - ASA 81 daily
   - will cycle troponins q6h, however expect mild elevation post DCCV ->
   trending down, peak 0.18
   - Cardiac MRI today
   .
   # PUMP: No evidence of heart failure on history and exam.  Normal
   systolic function on last echo on [**2162-7-19**] (LVEF>55%).
   - monitor I and O, daily weights
   .
   # HYPERTENSION: hypertensive vs. pre-hypertensive, not on medication
   - Continue sotalol
   .
   # CHRONIC RENAL INSUFFICIENCY: creatinine slightly elevated at 1.5 from
   baseline of 1.2. CKD may be secondary to hypertension with acute
   component of mild dehydration.
   - Trend renal function
   - avoid nephrotoxins/ renally dose meds
   .
   FEN:  regular, cardiac diet, replete K, Mg
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with SCD's
   .
   CODE: Full Code
   .
   COMM:  Wife [**Name (NI) 8106**] cell [**Telephone/Fax (1) 8107**], home [**Telephone/Fax (1) 8108**], [**Doctor First Name 8109**] [**Telephone/Fax (1) 8110**]
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2162-7-24**] 08:20 PM
   20 Gauge - [**2162-7-25**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   per housestaff
   nothing to add
   Physical Examination
   per housestaff
   nothing to add
   Medical Decision Making
   per housestaff
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 30 minutes.
   Additional comments:
   plan for continued sotalol and mri of heart
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 1584**]
   on:[**2162-7-29**] 08:13 ------

2162-07-29 06:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2162-7-28**] 09:00 PM -> QT interval ~450 msec
   Cardiac MRI yesterday, tolerated well. Results pending. Pt to lab for
   ICD placement today.
   Pt notes right great toe pain, similar to gout flare that he has once
   or twice a year.  (-) chest pain/pressure, (-) SOB, (-) N/V/D/F/C.  no
   other complaints
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   As above.  No abdominal pain, moved bowels yesterday, no numbness or
   weakness, no palpitaions
   Flowsheet Data as of  [**2162-7-29**] 05:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.3
C (97.4
   HR: 67 (53 - 75) bpm
   BP: 123/73(84) {111/52(67) - 144/124(127)} mmHg
   RR: 17 (10 - 18) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.5 kg (admission): 102 kg
                  Total In:
                                                                    670 mL
                  PO:
                                                                    670 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,825 mL
                                                                      0 mL
   Urine:
                                                                  2,825 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,155 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ////
   Physical Examination
   HEENT: PERRLa, EOMi, clear oropharynx, no carotid bruits
   CV: RRR, S1, S2 no m, r, g,  PMI non-displaced, JVD at 7 cm
   Pulm:  CTA bilat, no w,r,r
   Abd:  soft, NT, ND, active BS, no HSM
   Peripheral Vascular: (Right radial pulse: 2+), (Left radial pulse: 2+),
   (Right DP pulse: 2+), (Left DP pulse: 2+)
   Skin:  No rash
   Neurologic: CNs in tact, ambulatory
   Labs / Radiology
   239 K/uL
   14.6 g/dL
   135 mg/dL
   1.3 mg/dL
   29 mEq/L
   4.2 mEq/L
   15 mg/dL
   105 mEq/L
   142 mEq/L
   44.1 %
   8.8 K/uL
        [image002.jpg]
                             [**2162-7-24**]  11:20 PM
                             [**2162-7-25**]  01:45 AM
                             [**2162-7-26**]  05:34 AM
                             [**2162-7-27**]  05:24 AM
                             [**2162-7-28**]  05:46 AM
   WBC
   9.5
   9.2
   7.0
   8.8
   Hct
   45.3
   47.0
   46.0
   44.1
   Plt
   [**Telephone/Fax (3) 8167**]39
   Cr
   1.2
   1.5
   1.3
   1.3
   TropT
   0.18
   0.12
   Glucose
   131
   124
   129
   135
   Other labs: PT / PTT / INR:12.6/26.8/1.1, CK / CKMB /
   Troponin-T:146/5/0.12, Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   64 y/o gentleman with no prior cardiac hx, presenting with syncope
   secondary to wide-complex tachycardia recorded on KOH and EMS strip.
   Another episode on arrival to CCU s/p DCCV.
   .
   # RHYTHM: Symptomatic wide-complex tachycardia concerning for
   monomorphic ventricular tachycardia.  ? related to sympathetic drive.
   Etiology of v-tach could also be secondary to ischemia given his age.
   However recent TTE on [**2162-7-19**] without focal WMA.  History not c/w
   cardiac ischemia.  However his trop was mildly elevated to 0.12 with
   flat CKs.  This could be secondary to Vtach itself in the setting of
   CKD.  No evidence of channelopathies on EKG.   Pt now s/p unsuccessful
   EP ablation, possible epicardial focus of VT, which had different
   morphology than initial VT.
   - Will use lidocaine GTT if PT w/ new episodes of sustained VT
   - Appreciate EP recommendations
   - Will keep on cardiac monitor
   - will continue sotalol 80 mg PO BID, uptitrate to 120 mg PO BID at
   discharge, check ECG after each dose for QT prolongation
   - Cardiac MRI results pending, will follow up today
   - plan for ICD placement today, pt currently NPO
   .
   # CORONARIES: No known CAD (total chol 217, LDL 146 in [**12-28**]).
   Troponin-T elevated at 0.12 as above.
   - ASA 81 daily
   - will cycle troponins q6h, however expect mild elevation post DCCV ->
   trending down, peak 0.18
   - Cardiac MRI f/u, ICD today
   .
   # PUMP: No evidence of heart failure on history and exam.  Normal
   systolic function on last echo on [**2162-7-19**] (LVEF>55%).
   - monitor I and O, daily weights
   .
   # HYPERTENSION: hypertensive vs. pre-hypertensive, not on medication ->
   will start lisinopril today
   - Continue sotalol
   .
   # CHRONIC RENAL INSUFFICIENCY: creatinine slightly elevated at 1.5 from
   baseline of 1.2. CKD may be secondary to hypertension with acute
   component of mild dehydration.
   - Trend renal function
   - avoid nephrotoxins/ renally dose meds
   .
   #  Right great toe pain
 suspect podagra, no h/o trauma.  Will treat
   with indomethacin
   FEN:  regular, cardiac diet, replete K, Mg
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with SCD's
   .
   CODE: Full Code
   .
   COMM:  Wife [**Name (NI) 8106**] cell [**Telephone/Fax (1) 8107**], home [**Telephone/Fax (1) 8108**], [**Doctor First Name 8109**] [**Telephone/Fax (1) 8110**]
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2162-7-24**] 08:20 PM
   20 Gauge - [**2162-7-25**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   per housestaff
   nothing to add
   Physical Examination
   per housestaff
   nothing to add
   Medical Decision Making
   per housestaff
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 30 minutes.
   Additional comments:
   Per housestaff
   MRI demonstrated area of scar
   ICD today
   Add lisinopril given mild lv dysfunction
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 1584**]
   on:[**2162-7-29**] 11:38 ------